US07842696B2
DIPEA (56 mg, 0.43 mmol) was added to a stirred solution of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone TFA salt. (74 mg, 0.17 mmol) in DMF (1 mL). HOBT (23 mg, 0.17 mmol) and EDCI.HCl (33 mg, 0.17 mmol) were then added at room temperature. After 2 minutes, 6-hydroxy nicotinic acid (20 mg, 0.14 mmol) was added and the resulting mixture was stirred at room temperature for 4 hrs. Cold water (20 mL) was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 35 mg (56.5% yield) of 6-hydroxy-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-nicotinamide. LCMS Purity: 99.38%, HPLC Purity: 92.66%, 1H NMR (DMSO-d6): δ 12 (s, 1H), 8.0 (t, 1H), 7.9-7.8 (m, 2H), 7.8-7.7 (d, 1H), 7.7-7.6 (t, 1H), 7.6-7.5 (m, 1H), 6.4-6.3 (dd, 1H), 4.2-4.0 (m, 2H), 3.8-3.7 (m, 2H), 3.6 (m, 2H), 3.4 (m, 2H), 3.2-3.1 (m, 2H).

reactant | DIPEA | 0.43 mmol, 56 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone TFA salt | OC(=O)C(F)(F)F.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | HOBT | 0.17 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.17 mmol, 33 mg | CCN=C=NCCCN(C)C.Cl
reactant | 6-hydroxy nicotinic acid | 0.14 mmol, 20 mg | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 6-hydroxy-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-nicotinamide | 35 mg, 56.5% yield | OC1=NC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C20H19F3N4O4
